US06635655B1
Ethyl-4-benzyloxy-2-hydroxy-6-methyl-benzoate
Ethyl-2,4-dihydroxy-6-methyl benzoate (4 g, 21 mmol) is dissolved in acetone (80 mL) and to this solution is added potassium carbonate (2.9 g, 21 mmol) and benzyl bromide (2.5 mL, 21 mmol). This mixture is heated at reflux for 16 hours. To the cooled reaction is added ethyl acetate (100 mL) and water (100 mL). The organic layer is washed with water (2×80 mL) and brine (2×80 mL), then dried over magnesium sulfate and the solvent removed in vacuo. The crude is purified by column chromatography (silica, 10% ethyl acetate in hexanes) to give the title compound: 1H NMR (300 MHz, CDCl3) δ 7.38 (m, 5H), 6.41 (d, 1H), 6.38 (d, 1H), 5.05 (s, 2H), 4.40 (q, 2H), 2.51 (s, 3H), 1.40 (t, 3H).

reactant | potassium carbonate | 21 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 21 mmol, 2.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 100 mL | O | H2O
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | Ethyl-4-benzyloxy-2-hydroxy-6-methyl-benzoate | C(C)OC(C1=C(C=C(C=C1C)OCC1=CC=CC=C1)O)=O | C17H18O4
